US06251917B1
a) Ethyl 4-(2-naphthylsulfonamido)benzoate
10 g (60.5 mmol) of ethyl 4-aminobenzoate and 13.7 g (60.5 mmol) of 2-naphthylsulfonyl chloride were reacted by the method of procedure 4b, affording 13.6 g (64%) of the product.

reactant | ethyl 4-aminobenzoate | 60.5 mmol, 10 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 2-naphthylsulfonyl chloride | 60.5 mmol, 13.7 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | Ethyl 4-(2-naphthylsulfonamido)benzoate | 13.6 g, 64% | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC1=CC=C(C(=O)OCC)C=C1 | C19H17NO4S
